US09085555B2
A. (2-Chloro-3-fluoro-pyridin-4-yl)-methanol
Carbonyldiimidazole (1.80 g, 11.1 mmol) was added to a solution of 2-chloro-3-fluoro-isonicotinic acid (1.3 g, 7.41 mmol) in THF (21.2 mL). The reaction mixture was stirred at RT overnight and was then added to a cold (0° C.) solution of NaBH4 (1.40 g, 37 mmol) in water (52.9 mL). The mixture was stirred for 10 min at 0° C., and 1M HCl was then added carefully to quench the reaction (caution: H2 evolving). Volatiles were removed via rotary evaporation and the residue was dissolved in saturated aqueous NaHCO3. The mixture was extracted repeatedly with CH2Cl2, the combined organics were dried (phase separator) and concentrated in vaccuo. Purification by flash column chromatography on silica gel (eluent gradient: c-hexane/EtOAc 4:1 to 2:1) afforded the title compound as a white solid. TLC, Rf (c-hexane/EtOAc 1:1)=0.37; MS (LC/MS): 162.0 [M+H]+; tR (HPLC conditions b): 1.60 min.

reactant | Carbonyldiimidazole | 11.1 mmol, 1.80 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-chloro-3-fluoro-isonicotinic acid | 7.41 mmol, 1.3 g | ClC=1C(=C(C(=O)O)C=CN1)F | C6H3ClFNO2
reactant | NaBH4 | 37 mmol, 1.40 g | [BH4-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 21.2 mL | C1CCOC1 | C4H8O
solvent | water | 52.9 mL | O | H2O
product | (2-Chloro-3-fluoro-pyridin-4-yl)-methanol | ClC1=NC=CC(=C1F)CO | C6H5ClFNO
